### PR TITLE
receiveIPC_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
Updated the Haskell for `receiveIPC` and solved `receiveIPC_corres`.

Depends on a single sorry from another PR.

### CODE REVIEW

**Review by corlewis — APPROVED** [review]
Great work, these are some big proofs that you've gotten through!

One more separate nitpick, I think you might want to update the message of the commit that updates the Haskell. It's not really an attempt anymore.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 1]
```diff
@@ -179,14 +184,16 @@ The IPC receive operation is essentially the same as the send operation, but wit
 >                   doIPCTransfer sender (Just epptr) badge canGrant thread
 >                   let call = blockingIPCIsCall senderState
 >                   fault <- threadGet tcbFault sender
->                   case (call, fault, canGrant || canGrantReply, replyOpt) of
->                       (False, Nothing, _, _) -> do
+>                   if (call || isJust fault)
+>                       then if ((canGrant || canGrantReply) && replyOpt /= Nothing)
+>                           then do
+>                               senderSc <- threadGet tcbSchedContext sender
+>                               donate <- return ((senderSc /= Nothing) && not (isJust fault && isTimeoutFault (fromJust fault)))
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs:191]: Thanks Corey! I agree about changing the function to take `Maybe Fault`, but I'm not sure we know `isJust fault` in this branch. I think that you could have `call = True` but not `isJust fault` because of the `||`

File: proof/refine/ARM/KHeap_R.thy [hunk 2]
```diff
@@ -3910,4 +3910,41 @@ lemma threadGet_getObject:
   apply (simp add: threadGet_def threadRead_def oliftM_def getObject_def[symmetric])
   done
 
+lemma isBlockedOnSend_def2:
+  "isBlockedOnSend st = (\<exists>v0 v1 v2 v3 v4. st = Structures_H.thread_state.BlockedOnSend v0 v1 v2 v3 v4)"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3914]: I believe that `isBlockedOnSend` and `isSend` both exist in the Haskell and are needed for it to be executable. Though this does reveal some duplication which could be removed. Since Haskell doesn't know about datatype packages, I don't think we can remove it from `is_BlockedOnSend` Haskell entirely.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 1 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs:191]: The current `isTimeoutFault` has the following nice property
```
isTimeoutFault (fault_map a) = is_timeout_fault a
```
So I'd like to keep it that way if you don't mind.

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -4604,68 +4495,463 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+                   apply (rule_tac P="einvs and valid_sched and tcb_at thread
+                                            and ep_at word1 and valid_ep ep and ko_at (Endpoint ep) word1
+                                            and cte_wp_at (\<lambda>c. c = cap.NullCap) (thread, tcb_cnode_index 3)
+                                            and ex_nonz_cap_to thread
+                                            and receive_ipc_preamble_rv reply_cap replyOpt
+                                            and (\<lambda>s. \<forall>r\<in>zobj_refs reply_cap. ex_nonz_cap_to r s)" and
+                                   P'="invs' and tcb_at' thread and ep_at' word1
+                                             and valid_ep' ep'
+                                             and valid_bound_reply' replyOpt"
+                                   in corres_inst)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4731]: The common part is small and a bit awkward, rather than naming the whole small part. I've opted to name each of the highly recurring parts and this make the proofs a bit easier to read (I hope).

File: proof/refine/ARM/KHeap_R.thy [hunk 4]
```diff
@@ -3910,4 +3910,41 @@ lemma threadGet_getObject:
...
+  "st_tcb_at' P t s \<Longrightarrow> sch_act_wf (ksSchedulerAction s) s \<Longrightarrow>
+   \<forall>st. P st \<longrightarrow> \<not> runnable' st \<Longrightarrow>
+   sch_act_not t s"
+   by (clarsimp simp: pred_tcb_at'_def obj_at'_def)
+
+lemma valid_replies'_sc_asrt_lift:
+  assumes x: "\<And>P. f \<lbrace>\<lambda>s. P (replySCs_of s)\<rbrace>"
+  assumes y: "\<And>P. f \<lbrace>\<lambda>s. P (replyTCBs_of s)\<rbrace>"
+  assumes z: "\<And>P t. f \<lbrace>st_tcb_at' P t\<rbrace>"
+  shows "f \<lbrace>valid_replies'_sc_asrt x\<rbrace>"
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:3931]: Done :)

File: proof/refine/ARM/Ipc_R.thy (hunk 3 above)
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:4717]: There’s `corres_inst_add` that lets you specify only some of the conjuncts, which might be useful.

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -4604,68 +4495,463 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+
+crunches cancel_ipc
+  for ep_at[wp]: "ep_at epptr"
+  and reply_at[wp]: "reply_at rptr"
+  and ex_nonz_cap_to[wp]: "ex_nonz_cap_to t"
+  (simp: crunch_simps thread_set_cap_to_fault_helper
+     wp: crunch_wps thread_set_cap_to)
+
+(* Replace this when sendIPC_corres work is merged *)
+lemma replyPushtemp:
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:4559]: Yes, it has been. It should be sitting at an earlier point in this file. I am not entirely sure what is going on but I suppose this needs to be sorted before merging.

File: proof/refine/Move_R.thy [hunk 6]
```diff
@@ -430,4 +430,13 @@ lemma schedule_sched_act_rct[wp]:
 
 (* END: scheduler_action lemmas needed in Refine.thy *)
 
+lemma valid_BlockedOnReceive[simp]:
+  "valid_tcb_state (Structures_A.thread_state.BlockedOnReceive epptr replyOpt payload)
+   = (ep_at epptr and valid_bound_reply replyOpt)"
+  by (rule ext, clarsimp simp: valid_tcb_state_def split: option.splits)
+
+lemma case_option_ext:
```
Comment (michaelmcinerney) [inline proof/refine/Move_R.thy:438]: Move?

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+  apply (clarsimp simp: obj_at'_def projectKOs)
+  apply (rename_tac ntfn tcb)
+  apply (rule_tac x=tcb in exI)
+  apply (clarsimp simp: invs'_def valid_state'_def inQ_def comp_def eq_commute[where a="Some _"])
+  apply (intro conjI impI allI; clarsimp?)
+        apply (fastforce simp: valid_release_queue'_def obj_at'_def projectKOs)
+       apply (fastforce simp: valid_release_queue'_def obj_at'_def projectKOs)
+      apply (clarsimp simp: untyped_ranges_zero_inv_def cteCaps_of_def comp_def)
+     apply (clarsimp simp: valid_idle'_def obj_at'_def projectKOs sym_refs_asrt_def)
+     apply (drule_tac ko="tcb::tcb" and p=tptr for tcb in sym_refs_ko_atD'[rotated])
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4517]: Do we really need the type annotation here?

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+  apply (clarsimp simp: valid_cap_def)
+  apply (erule cross_relF[OF _ reply_at'_cross_rel])
+  apply fastforce
   done
 
-lemma tcb_ep_dequeue_corres:
-  "qs = qs' \<Longrightarrow> corres (=) \<top> \<top> (tcb_ep_dequeue t qs) (tcbEPDequeue t qs')"
-  by (clarsimp simp: tcb_ep_dequeue_def tcbEPDequeue_def)
+lemma ri_preamble_vbreply:
+  "receive_ipc_preamble_rv p pp s \<Longrightarrow> valid_bound_reply pp s"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4635]: Use better variable names here?

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+lemma ri_preamble_not_in_sc:
+  "\<lbrakk>sym_refs (state_refs_of s);
+    valid_replies s;
+    receive_ipc_preamble_rv reply_cap replyOpt s\<rbrakk>
+   \<Longrightarrow> valid_bound_obj (\<lambda>a b. a \<notin> fst ` replies_with_sc b) replyOpt s"
+  apply (case_tac replyOpt; simp)
+  apply (erule (1) no_tcb_not_in_replies_with_sc, simp)
+  done
+
+lemma receiveIPC_corres_helper:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4647]: I know that getting these `do` blocks in the right format can sometimes be annoying and that these helper lemmas are often nice to use in the middle of big proofs, but in this case, is this just applying `K_bind_def` or something? If so, can you use a `simply only: K_bind_def` in the proof below instead of this helper lemma?

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+                     apply (fold dc_def)[1]
+                     apply (rule corres_guard_imp)
+                       apply (case_tac isBlocking; simp)
+                        apply (rule corres_split_deprecated [OF _ sts_corres])
+                           apply (rule corres_split_deprecated[where r'=dc])
+                              apply (rule set_ep_corres)
+                              apply (simp add: ep_relation_def)
+                             apply (rule corres_when, clarsimp)
+                             apply (rule replyTCB_update_corres)
+                            prefer 6 \<comment> \<open> defer wp until corres complete \<close>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4734]: Maybe you can use an Eisbach `match` statement to pick out the `corres` statement here instead of the `prefer`?

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+                            apply (rule corres_guard_imp, rule doNBRecvFailedTransfer_corres, clarsimp)
+                            apply simp \<comment> \<open> corres logic done \<close>
+                           apply wpsimp+
+                      apply (clarsimp simp add: invs_def valid_state_def valid_pspace_def
+                     valid_tcb_state_def st_tcb_at_tcb_at split: option.splits)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4739]: Indentation of the second line here

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -4604,68 +4493,446 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+                 | _ \<Rightarrow> haskell_fail [];
+                 f replyOpt
+          od)"
+  by (case_tac replyCap; simp add: bind_assoc)
+
+lemma receiveIPC_corres:
+  assumes "is_ep_cap cap" and "cap_relation cap cap'" and "cap_relation reply_cap replyCap"
+      and "is_reply_cap reply_cap \<or> (reply_cap = cap.NullCap)"
+  shows
+    "corres dc (einvs and valid_cap cap
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4675]: `einvs` contains `valid_sched`, so you can take that out (unless it's good for the pattern matching, in which case maybe just write `invs`?)

**Review by michaelmcinerney — APPROVED** [review]
Very nice! Just a few nitpicks and other minor points

File: proof/refine/ARM/Ipc_R.thy (hunk 10 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4535]: I tried to do this, but maybe there's a problem associated iwth schematics? I couldn't make it work.

File: proof/refine/ARM/Ipc_R.thy (hunk 9 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4448]: Can you say more? The intention here was to change move the `when` block inside the case statement. Is there a way to do that directly with K_bind?

File: proof/refine/Move_R.thy (hunk 6 above)
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:438]: I'm just not sure where to move it. Do you have any suggestions? Otherwise I could just add `FIXME RT: move to Lib?` and leave it here.

File: proof/refine/ARM/Ipc_R.thy (hunk 10 above)
Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy:4535]: It's hard to tell without looking at the state, but using `corres_split` instead of `corres_split_deprecated` might let you avoid needing this `prefer`. One of the reasons that I made that change was because I found it led to a more natural order of subgoals.

File: proof/refine/ARM/Ipc_R.thy (hunk 9 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:4448]: Ah I think I completely misread this at first. I don't think there's a good way around this, so happy for you to leave it as is

File: proof/refine/Move_R.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/refine/Move_R.thy:438]: Nah, no suggestions. Your FIXME sounds good

File: proof/refine/ARM/Ipc_R.thy (hunk 5 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4032]: This should be resolved once `sendIPC_corres` proofs are in.

**Review by michaelmcinerney — APPROVED** [review]
Sweet. Just a few nitpicks

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -4419,68 +4262,420 @@ lemma maybe_return_sc_weak_valid_sched_action:
...
+           and tcb_at tcbPtr)
+          (valid_tcbs' and valid_queues and valid_queues' and valid_release_queue_iff)
+          (schedule_tcb tcbPtr)
+          (scheduleTCB tcbPtr)"
+  apply (clarsimp simp: schedule_tcb_def scheduleTCB_def)
   apply (rule corres_guard_imp)
-    apply (rule corres_if; clarsimp?)
-    apply (rule_tac corres_split_deprecated[OF _ tcb_ep_find_index_corres])
-      apply wpsimp+
+    apply (rule corres_split_deprecated[OF _ gct_corres])
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:4671]: I tried to, but I must have missed this one! Will deal with it :)

**Review by mktnk3 — APPROVED** [review]
Great to see another big corres rule proved! Great work. Just a few minor comments from me.

File: proof/refine/ARM/Invariants_H.thy [hunk 14]
```diff
@@ -4069,29 +4069,22 @@ lemma valid_replies'_sc_asrt_replySC_None:
...
-     apply force
-    apply (drule mp; clarsimp)
-    apply (frule use_valid[OF _ rTCB[where P="\<lambda>tcbs. tcbs rptr = Some tcb" for tcb]])
-     apply (force simp: opt_map_def)
-    apply (frule use_valid[OF _ st], assumption)
-    apply clarsimp
-    done
-  done
+  unfolding valid_replies'_def
+  by (wpsimp wp: hoare_vcg_imp_lift' rNext rPrev rTCB st hoare_vcg_all_lift hoare_vcg_ex_lift)
```
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/Invariants_H.thy:4087]: Yeah, that's so much better!

File: proof/refine/ARM/KHeap_R.thy [hunk 15]
```diff
@@ -4188,4 +4188,42 @@ lemma pred_tcb_at'_equiv:
       clarsimp simp: pred_tcb_at'_def pred_map_def obj_at'_real_def ko_wp_at'_def projectKOs
                      opt_map_def)
 
+lemma isBlockedOnSend_equiv:
+  "isBlockedOnSend st = is_BlockedOnSend st"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:4192]: Definitely not necessary as part of this PR, but it might be worth making these sort of rules `[simp]` as a first step towards consolidating these definitions.

File: proof/refine/ARM/KHeap_R.thy [hunk 16]
```diff
@@ -4188,4 +4188,42 @@ lemma pred_tcb_at'_equiv:
...
+  by (case_tac st; simp add: isBlockedOnSend_def)
+
+lemma isSend_equiv:
+  "isSend st = is_BlockedOnSend st"
+  by (case_tac st; simp add: isSend_def)
+
+lemma sch_act_wf_runnable_sch_act_not:
+  "\<lbrakk>st_tcb_at' P t s; sch_act_wf (ksSchedulerAction s) s; \<forall>st. P st \<longrightarrow> \<not> runnable' st\<rbrakk> \<Longrightarrow>
+   sch_act_not t s"
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:4201]: nitpick: should the name be `sch_act_wf_not_runnable_sch_act_not`?

**Review by corlewis — APPROVED** [review]
It was great last time, and it's even better now!
